US07229986B2
1-(1-Acetyl-2,3,4,5-tetrahydro-1H-1-benzazepin-8-yl)-3-(dimethylamino)-1-propanone
50% aqueous dimethylamine (27 ml) was added to a solution of 1-(1-acetyl-2,3,4,5-tetrahydro-1H-1-benzazepin-8-yl)-3-chloro-1-propanone (7.10 g, 25.4 mmol) obtained in Reference Example 7 in dichloromethane at room temperature, and then stirred for 4 hours. After the reaction solution was separated, the organic layer was washed with a saturated saline solution and dried over anhydrous sodium sulfate, and the solvent was distilled away under reduced pressure. The resultant residues were purified by alumina column chromatography (developing solvent; hexane:ethyl acetate=1:1) and crystallized from hexane, whereby the title compound (5.38 g) was obtained as colorless powder with a mp. of 68 to 70° C.

reactant | dimethylamine | 27 ml | CNC | C2H7N
reactant | 1-(1-acetyl-2,3,4,5-tetrahydro-1H-1-benzazepin-8-yl)-3-chloro-1-propanone | 25.4 mmol, 7.10 g | C(C)(=O)N1CCCCC2=C1C=C(C=C2)C(CCCl)=O | C15H18ClNO2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(1-Acetyl-2,3,4,5-tetrahydro-1H-1-benzazepin-8-yl)-3-(dimethylamino)-1-propanone | C(C)(=O)N1CCCCC2=C1C=C(C=C2)C(CCN(C)C)=O | C17H24N2O2
